US07091342B2
A mixture of 0.212 g of p-xylene, 0.018 g of hexahydro-1,3,5-trihydroxy-1,3,5-triazine-2,4,6-trione (5% by mole relative to p-xylene), 5 g of acetic acid, 0.003 g of cobalt(II) acetate.4H2O and 0.003 g of manganese(II) acetate.4H2O was stirred at 100° C. in an atmosphere of oxygene gas (1 atm=0.1 MPa) for 14 hours. The resulting product in the reaction mixture was analyzed by high performance liquid chromatography and was found to yield terephthalic acid in 95% yield at 100% conversion of p-xylene.

reactant | hexahydro-1,3,5-trihydroxy-1,3,5-triazine-2,4,6-trione | 0.018 g | ON1C(N(C(N(C1=O)O)=O)O)=O | C3H3N3O6
reactant | acetic acid | 5 g | C(C)(=O)O | C2H4O2
reactant | oxygene | O=O | O2
reactant | p-xylene | CC=1C=CC(=CC1)C | C8H10
reactant | p-xylene | 0.212 g | CC=1C=CC(=CC1)C | C8H10
catalyst | cobalt(II) acetate | 0.003 g | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | manganese(II) acetate | 0.003 g | C(C)(=O)[O-].[Mn+2].C(C)(=O)[O-]
product | terephthalic acid | 95% yield | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
